US04874775
N-(4-chloro-2-methylphenyl)-N-(pyridin-3-yl-methyl)-methanesulfonamide
A 2.4 g. portion of 3-(4-chloro-2-methylphenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.1 g. of potassium carbonate and 2 ml. of methanesulfonyl chloride were added. The mixture was stirred at ambient temperature for several days, and then under reflux for another day. It was then cooled and diluted with 20 ml. of aqueous sodium bicarbonate and 5 ml. of 2N sodium hydroxide, 20 ml. of dichloromethane was added, and the organic layer was washed with aqueous sodium bicarbonate, dried and evaporated to an oil. The oil was dissolved in dichloromethane and chromatographed over silica gel, eluting first with dichloromethane and then with dichloromethane:ethyl acetate. The product-containing fractions were combined to obtain 1.8 g. of the desired product.

reactant | 3-(4-chloro-2-methylphenylaminomethyl)pyridine | ClC1=CC(=C(C=C1)NCC=1C=NC=CC1)C | C13H13ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chloro-2-methylphenyl)-N-(pyridin-3-yl-methyl)-methanesulfonamide | ClC1=CC(=C(C=C1)N(S(=O)(=O)C)CC=1C=NC=CC1)C | C14H15ClN2O2S
